US04381303
(c) 4-Amino-N-(2-chloro-3-pyridinyl)-1-methyl-1H-pyrazole-5-caboxamide
A solution of 62.0 gm (0.22 mol) of N-(2-chloro-3-pyridinyl)-1-methyl-4-nitro-1H-pyrazole-5-carboxamide in 1 liter of dioxane was hydrogenated in the presence of 5 gm of 10% palladium/animal charcoal as catalyst at room temperature and 5 bar until the hydrogen absorption was finished. After removal of the catalyst and the resulting precipitate by filtration, the filtrate was evaporated in vacuo. The remaining distillation residue was recrystallized from methanol.

reactant | N-(2-chloro-3-pyridinyl)-1-methyl-4-nitro-1H-pyrazole-5-carboxamide | 0.22 mol, 62.0 gm | ClC1=NC=CC=C1NC(=O)C1=C(C=NN1C)[N+](=O)[O-] | C10H8ClN5O3
solvent | dioxane | 1 liter | O1CCOCC1 | C4H8O2
catalyst | palladium | 5 gm | [Pd] | Pd
product | 4-Amino-N-(2-chloro-3-pyridinyl)-1-methyl-1H-pyrazole-5-caboxamide | NC=1C=NN(C1C(=O)NC=1C(=NC=CC1)Cl)C | C10H10ClN5O
